US06528505B1
Step B: Preparation of 7-Methyl-1,2,4-triazolo[4,3-d][1,4]benzodiazepin-6(7H)-one
A mixture of 1,3-dihydro-5-(ethylthio)-1-methyl-2H-1,4-benzodiazepin-2-one (1 eq.) and formic hydrazide (5.8 eq. Aldrich) in n-butanol (0.1 M in benzodiazepine) was stirred at reflux under N2 for 24 hours. An additional 1.67 eq. of formic hydrazide was added and refluxing continued an additional 16 hours. The yellow solution was evaporated in vacuo and the residue was purified via flash chromatography eluting with a gradient from 98:2® 96:4 CH2Cl2/MeOH. The product was obtained as a white solid.

reactant | 1,3-dihydro-5-(ethylthio)-1-methyl-2H-1,4-benzodiazepin-2-one | 1 eq. | C(C)SC1=NCC(N(C2=C1C=CC=C2)C)=O | C12H14N2OS
reactant | formic hydrazide | 5.8 eq | C(=O)NN | CH4N2O
reactant | formic hydrazide | 1.67 eq. | C(=O)NN | CH4N2O
solvent | n-butanol | 0.1 M | C(CCC)O | C4H10O
product | 7-Methyl-1,2,4-triazolo[4,3-d][1,4]benzodiazepin-6(7H)-one | CN1C(CN2C(C3=C1C=CC=C3)=NN=C2)=O | C11H10N4O
